* Brushed DC Motor Simulation
* Compatible with LTSpice and Ngspice
* 50% PWM at 20V

.param Vsupply=20
.param Duty=0.5
.param Freq=20k
.param Period={1/Freq}
.param Ton={Period*Duty}

* PWM Input (Voltage Source)
Vpwm 1 0 PULSE(0 {Vsupply} 0 10n 10n {Ton} {Period})

* Motor Electrical Model
* R = 12 Ohm, L = 2 mH
Rarm 1 2 12
Larm 2 3 2m

* Current Sense (Zero volt source)
Vsense 3 4 0

* Back EMF (Voltage Controlled Voltage Source)
* V_bemf = Ke * Omega
* Ke = 0.01 V/(rad/s)
* 3-sector commutation ripple: Modulate by (1 + 0.1 * sin(3 * V(theta)))
Ebemf 4 5 VALUE = {0.01 * V(omega) * (1 + 0.1 * sin(3 * V(theta)))}

* Shunt Resistor
Rshunt 5 0 0.1

* Motor Mechanical Model
* Analogy: Voltage=Velocity, Current=Torque
* Torque Source (Current Controlled Current Source)
* Torque = Kt * I_motor
* Kt = 0.01 N*m/A
* 3-sector commutation ripple: Modulate by (1 + 0.1 * sin(3 * theta))
Gtorque 0 omega VALUE = {0.01 * I(Vsense) * (1 + 0.1 * sin(3 * V(theta)))}

* Rotor Angle Integration
* theta = integral(omega)
* C = 1, I = V(omega) -> V(theta) = integral(V(omega))
Cangle theta 0 1
Gangle 0 theta VALUE = {V(omega)}
* Add a large resistor to prevent floating node issues (optional but good practice)
Rangle theta 0 1G

* Inertia (Capacitor)
* J = 1e-6 kg*m^2
Cinertia omega 0 1u

* Friction (Resistor)
* B = 1e-5 N*m*s/rad
* R = 1/B = 100k
Rfrict omega 0 100k

* Transient Analysis: 1us step, 500us total (10 PWM cycles at 20kHz)
.tran 1u 500us

* Control block for Ngspice (Ignored by LTSpice)
.control
run
set filetype=ascii
write simulation_result.txt I(Vsense) V(1) V(omega)
.endc

.end
